US04499269
(c) 2-Amino-4-[4-(2-diethylaminoethoxy)phenyl]imino-8-methoxy-4H-1,3,5-triazino[2,1-b]benzothiazole
6-Methoxybenzothiazol-2-ylguanidine (0.2 g) was added to a suspension of sodium hydride (0.022 g=0.044 g of 50% dispersion in oil) in anhydrous dimethylformamide (20 mls) and the resulting mixture was stirred at room temperature for 15 mins. 4-(2-Diethylaminoethoxy)phenylisothiocyanate (0.23 g) was added followed, after 2.5 hrs, by methyl iodide (0.14 g) and the mixture stirred for a further 18 hrs. Water was added to precipitate a yellow solid which was collected by filtration, washed with ethanol and dissolved in ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulphate and evaporated to give a yellow solid (0.33 g). Recrystallisation of the residue from ethyl acetate gave the desired product as pale yellow crystals (0.08 g) mp 189.5°-191°.

reactant | 6-Methoxybenzothiazol-2-ylguanidine | 0.2 g | COC1=CC2=C(N=C(S2)NC(=N)N)C=C1 | C9H10N4OS
reactant | sodium hydride | 0.022 g | [H-].[Na+]
reactant | 4-(2-Diethylaminoethoxy)phenylisothiocyanate | 0.23 g | C(C)N(CCOC1=CC=C(C=C1)N=C=S)CC | C13H18N2OS
reactant | methyl iodide | 0.14 g | CI | CH3I
solvent | dimethylformamide | 20 mls | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-Amino-4-[4-(2-diethylaminoethoxy)phenyl]imino-8-methoxy-4H-1,3,5-triazino[2,1-b]benzothiazole | 0.33 g | NC=1N=C2SC3=C(N2C(N1)=NC1=CC=C(C=C1)OCCN(CC)CC)C=CC(=C3)OC | C22H26N6O2S
